US09382188B2
step 3) 5-ethoxy-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoic acid
Sodium dihydrogenphosphate (230 mg), sodium chlorite (174 mg) and 2-methyl-2-butene (339 μL) were successively added to a mixture of ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoate, 2-methyl-2-propanol (4 mL) and water (1 mL), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1N hydrochloric acid at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (269 mg) as a colorless amorphous solid.

reactant | Sodium dihydrogenphosphate | 230 mg | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 174 mg | Cl(=O)[O-].[Na+]
reactant | 2-methyl-2-butene | 339 μL | CC(C)=CC | C5H10
reactant | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoate | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)CC=O)CC(C)(C)C | C32H37FO5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | 2-methyl-2-propanol | 4 mL | CC(C)(C)O | C4H10O
product | 5-ethoxy-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoic acid | 269 mg | C(C)OC(CC(CC(=O)O)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)=O | C32H37FO6
